US07129264B2
Methyl 2-bromo-5-nitrobenzoate was coupled to 2-formylphenylboronic acid using the procedure described for Example 4, Part A to provide methyl 2-(2′-formylphenyl)-5-nitrobenzoate. 1HNMR (300 MHz, CDCl3) δ 8.91 (s, 1H); 8.42 (d, 1H, J=8.5 Hz); 8.00 (d, 1H, J=8.5 Hz); 7.64 (m, 2H); 7.47 d, 1H, J=8.5 Hz); 7.22 (d, 1H, J=8.5 Hz); 3.71 (s, 3H).

reactant | Methyl 2-bromo-5-nitrobenzoate | BrC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | 2-formylphenylboronic acid | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
product | methyl 2-(2′-formylphenyl)-5-nitrobenzoate | C(=O)C1=C(C=CC=C1)C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C15H11NO5
